US08912227B1
3-(4-{[1-(4-Bromophenyl)-1H-pyrrol-2-yl]methoxy}-2,3-dimethylphenyl)propanoic acid (Compound #3)
The title compound was prepared by reacting methyl 1H-pyrrole-2-carboxylate with 4-bromophenylboronic acid according to the procedures of Example 1, Steps C and D, then reacting the resulting product with ethyl 3-(2,3-dimethyl-4-hydroxyphenyl)propanoate according to the procedures described in Example 1, Steps E and F.

reactant | methyl 1H-pyrrole-2-carboxylate | N1C(=CC=C1)C(=O)OC | C6H7NO2
reactant | 4-bromophenylboronic acid | BrC1=CC=C(C=C1)B(O)O | C6H6BBrO2
reactant | ethyl 3-(2,3-dimethyl-4-hydroxyphenyl)propanoate | CC1=C(C=CC(=C1C)O)CCC(=O)OCC | C13H18O3
product | 3-(4-{[1-(4-Bromophenyl)-1H-pyrrol-2-yl]methoxy}-2,3-dimethylphenyl)propanoic acid | BrC1=CC=C(C=C1)N1C(=CC=C1)COC1=C(C(=C(C=C1)CCC(=O)O)C)C | C22H22BrNO3
